US07423030B2
18.3. 4-Benzyl-1-chloro-5,7-dimethoxyphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 4-benzyl-5,7-dimethoxy-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 4-benzyl-5,7-dimethoxy-2H-phthalazin-1-one | C(C1=CC=CC=C1)C1=NNC(C2=CC(=CC(=C12)OC)OC)=O | C17H16N2O3
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Benzyl-1-chloro-5,7-dimethoxyphthalazine | C(C1=CC=CC=C1)C1=NN=C(C2=CC(=CC(=C12)OC)OC)Cl | C17H15ClN2O2
